US04940710
1-Ethyl-5,6,8-trifluoro-1,4-dihydro-7-(4-methyl-1-piperazinyl)-4-oxo-3-quinolinecarboxylic acid, monohydrochloride
A 50 mg portion of 1-ethyl-5,6,8-trifluoro-1,4-dihydro-7-(4-methyl-1-piperazinyl)-4-oxo-3-quinolinecarboxylic acid was dissolved in 50 ml of dichloromethane and acidified with hydrochloric acid. Hexane and ether were added, the mixture was filtered and the solid which formed was collected, washed with ether, then hexane and dried, giving the desired salt, mp 271°-273° C.

reactant | 1-ethyl-5,6,8-trifluoro-1,4-dihydro-7-(4-methyl-1-piperazinyl)-4-oxo-3-quinolinecarboxylic acid | C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CCN(CC1)C)F)F)=O)C(=O)O | C17H18F3N3O3
reactant | hydrochloric acid | Cl | ClH
reactant | Hexane | CCCCCC | C6H14
reactant | ether | CCOCC | C4H10O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-Ethyl-5,6,8-trifluoro-1,4-dihydro-7-(4-methyl-1-piperazinyl)-4-oxo-3-quinolinecarboxylic acid, monohydrochloride | Cl.C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CCN(CC1)C)F)F)=O)C(=O)O | InChI=1S/C17H18F3N3O3.ClH/c1-3-22-8-9(17(25)26)16(24)10-11(18)12(19)15(13(20)14(10)22)23-6-4-21(2)5-7-23;/h8H,3-7H2,1-2H3,(H,25,26);1H
